US08227458B2
b) (5-Chloro-2-nitro-benzylamino)-acetic acid ethyl ester
A mixture of 4-chloro-2-chloromethyl-1-nitro-benzene (85 g, 0.41 mol), glycine ethyl ester hydrochloride (70 g, 0.50 mol) and triethylamine (121.4 ml, 0.8665 mol) in ethanol (1000 ml) was heated at reflux for 8 h. The solvent was evaporated and the residue was triturated in warm tert-butyl methyl ether. The ammonium salts were removed by filtration and the filtrate was concentrated in vacuo to give the title compound (111 g, 99%) as an amorphous brown solid which was used in the next step without purification. MS m/e: 273 (M+H+).

reactant | 4-chloro-2-chloromethyl-1-nitro-benzene | 0.41 mol, 85 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])CCl | C7H5Cl2NO2
reactant | glycine ethyl ester hydrochloride | 0.50 mol, 70 g | Cl.C(C)OC(CN)=O
reactant | triethylamine | 0.8665 mol, 121.4 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 1000 ml | C(C)O | C2H6O
product | (5-Chloro-2-nitro-benzylamino)-acetic acid ethyl ester | 111 g, 99% | C(C)OC(CNCC1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O | C11H13ClN2O4
